US08357684B2
Intermediate 35: tert-Butyl (1S,4S)-5-(4-hydroxybenzyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
To a solution of 4-hydroxybenzaldehyde (20 g, 0.163 mol, 1 equiv.) in CH2Cl2 (340 mL) was added tert-butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (35.7 g, 0.18 mol, 1.1 equiv.), acetic acid (2.8 mL, 0.05 mol, 0.3 equiv.) and sodium triacetoxyborohydride (41.4 g, 0.195 mol, 1.2 equiv.). The reaction was stirred at rt for 16 h. The reaction was quenched with satd. aq. NaHCO3 (3×150 mL) and 1 M NaOH (1×100 mL). The combined aqueous layers were reacidified with 1 M HCl and extracted with CH2Cl2 (2×300 mL). The organic layers were dried, filtered, and concentrated. Purification by column chromatography (5% MeOH/CH2Cl2) yielded product as a white powdery solid (24.4 g, 50%). 1H NMR (500 MHz, CDCl3): 7.16 (d, J=8.5, 2H), 6.74 (d, J=8.5, 2H), 4.37 (s, 0.5H), 4.25 (s, 0.5H), 3.65 (s, 2.5H), 3.52 (s, 0.5H), 3.47 (s, 1H), 3.16 (d, J=10.3, 1H), 2.92 (s, 0.5H), 2.82 (s, 0.5H), 2.72 (s, 0.5H), 2.57 (d, J=9.6, 0.5H), 1.85 (s, 1H), 1.74-1.62 (m, 1H), 1.47 (s, 9H). MS (ESI): mass calcd. for C17H24N2O3, 304.38; m/z found, 305.2 [M+H]+.

reactant | 4-hydroxybenzaldehyde | 0.163 mol, 20 g, 1 equiv. | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | tert-butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 0.18 mol, 35.7 g, 1.1 equiv. | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | acetic acid | 0.05 mol, 2.8 mL, 0.3 equiv. | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.195 mol, 41.4 g, 1.2 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 340 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (1S,4S)-5-(4-hydroxybenzyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 24.4 g, 50% | OC1=CC=C(CN2[C@@H]3CN([C@H](C2)C3)C(=O)OC(C)(C)C)C=C1 | C17H24N2O3
